US08040047B2
Synthesis of 9-phenyl-9H-carbazole-3-boronic Acid
10 g (31 mmol) of 3-bromo-9-phenyl-9H-carbazole was put into a 500 mL three-neck flask, and the atmosphere in the flask was substituted by nitrogen. 150 mL of tetrahydrofuran (THF) were put into the flask, and 3-bromo-9-phenyl-9H-carbazole was dissolved therein. This solution was cooled to −80° C. 20 mL (32 mmol) of n-butyllithium (a 1.58 mol/L hexane solution) was dropped into this solution with a syringe. After the dripping was completed, this solution was stirred at the same temperature for 1 hour. After the stirring, 3.8 mL (34 mmol) of trimethyl borate were added to the solution, and the solution was stirred for approximately 15 hours while the temperature of the solution was being brought back to room temperature. After the stirring, approximately 150 mL (1.0 mol/L) of dilute hydrochloric acid were added to the solution, and then the solution was stirred for 1 hour. After the stirring, an aqueous layer of the mixture was extracted with ethyl acetate. The extract was combined with an organic layer and then washed with a saturated sodium hydrogen carbonate solution. The organic layer was dried with magnesium sulfate. After the drying, the mixture was subjected to gravity filtration. The obtained filtrate was condensed to give an oily light brown substance. The obtained oily substance was dried under reduced pressure to give 7.5 g of a light brown solid, which was the object of the synthesis, at a yield of 86%.

reactant | 3-bromo-9-phenyl-9H-carbazole | 31 mmol, 10 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12BrN
reactant | n-butyllithium | 32 mmol, 20 mL | C(CCC)[Li]
reactant | trimethyl borate | 34 mmol, 3.8 mL | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1.0 mol/L, approximately 150 mL | Cl | ClH
solvent | hexane | 1.58 mol/L | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 9-phenyl-9H-carbazole-3-boronic Acid | 7.5 g, yield of 86% | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
